US06482829B2
8-(3,5-Bis-trifluoromethyl-benzoyl)-3-(2-morpholin-4-yl-ethyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one
Sodium hydride (34 mg, 60%) was suspended in N-methyl-2-pyrrolidone (2 mL) and 8-(3,5-bis-trifluoromethyl-benzoyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one (200 mg) was added with stirring. After 5 minutes stirring at room temperature 4-(2-chloroethyl)morpholine hydrochloride (79 mg) was added. The mixture was heated to 100° C. with stirring and kept for 1 h at that temperature. After cooling, saturated sodium bicarbonate solution was added and the mixture was extracted with ethylacetate. Organic phases were pooled, dried with Na2SO4 and the solvent was evaporated. Chromatography on silica gel (ethylacetate) yielded the desired product (180 mg, 73%), MS: m/e=585.1 (M+H+).

reactant | Sodium hydride | 34 mg | [H-].[Na+]
reactant | 8-(3,5-bis-trifluoromethyl-benzoyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one | 200 mg | FC(C=1C=C(C(=O)N2CCC3(C(NCN3C3=CC=CC=C3)=O)CC2)C=C(C1)C(F)(F)F)(F)F | C22H19F6N3O2
reactant | 4-(2-chloroethyl)morpholine hydrochloride | 79 mg | Cl.ClCCN1CCOCC1
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N-methyl-2-pyrrolidone | 2 mL | CN1C(CCC1)=O | C5H9NO
product | 8-(3,5-Bis-trifluoromethyl-benzoyl)-3-(2-morpholin-4-yl-ethyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one | 180 mg, 73% | FC(C=1C=C(C(=O)N2CCC3(C(N(CN3C3=CC=CC=C3)CCN3CCOCC3)=O)CC2)C=C(C1)C(F)(F)F)(F)F | C28H30F6N4O3
